US07915273B2
N2-(3-Aminosulfonyl-4-methylphenyl)-5-fluoro-N4-[4-(prop-2-ynyloxy)phenyl]-2,4-pyrimidinediamine (0.200 g, 0.467 mmol), DMAP (40 mg, 0.33 mmol)) and triethylamine (0.118 mL, 0.847 mmol) were stirred in THF (6.0 mL). Propionic anhydride (0.180 mL, 1.40 mmol) was added to the solution dropwise. The reaction mixture was stirred at rt overnight. The solution was diluted with ethyl acetate (50 mL) and washed with water (5×25 mL) and brine (10 mL). The organic layer was dried (MgSO4), filtered, and evaporated. The residue was suspended in ethyl acetate (25 mL), sonicated and filtered off to give a prodrug of VI-53, 5-fluoro-N2-(4-methyl-3-propionylaminosulfonylphenyl)-N4-[4-(prop-2-ynyloxy)phenyl]-2,4-pyrimidinediamine (VI-56; 0.20 g). 1H NMR (DMSO-d6): δ 12.01 (s, 1H), 9.44 (s, 1H), 9.26 (s, 1H), 8.16 (d, J=2.4 Hz, 1H), 8.06 (dd, J=0.3 and 3.3 Hz, 1H), 8.00 (dd, J=2.1 and 7.8 Hz, 1H), 7.69 (d, J=8.7 Hz, 2H), 7.19 (d, J=8.4 Hz, 1H), 6.95 (d, J=8.7 Hz, 2H), 4.77 (d, J=2.1 Hz, 2H), 3.56 (t, J=2.1 Hz, 1H), 2.49 (s, 3H), 2.24 (q, J=7.2 Hz, 2H), 0.89 (t, J=7.2 Hz, 3H); LCMS: purity: 98%; MS (m/e): 484 (MH+).

reactant | N2-(3-Aminosulfonyl-4-methylphenyl)-5-fluoro-N4-[4-(prop-2-ynyloxy)phenyl]-2,4-pyrimidinediamine | 0.467 mmol, 0.200 g | NS(=O)(=O)C=1C=C(C=CC1C)NC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCC#C)F | C20H18FN5O3S
reactant | triethylamine | 0.847 mmol, 0.118 mL | C(C)N(CC)CC | C6H15N
reactant | Propionic anhydride | 1.40 mmol, 0.180 mL | C(CC)(=O)OC(CC)=O | C6H10O3
catalyst | DMAP | 0.33 mmol, 40 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 5-fluoro-N2-(4-methyl-3-propionylaminosulfonylphenyl)-N4-[4-(prop-2-ynyloxy)phenyl]-2,4-pyrimidinediamine | 0.20 g | FC=1C(=NC(=NC1)NC1=CC(=C(C=C1)C)S(=O)(=O)NC(CC)=O)NC1=CC=C(C=C1)OCC#C | C23H22FN5O4S
